US09056859B2
A sealed tube containing methyl 2-bromo-4-methylbenzoate (650 mg, 2.84 mmol), 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (781 mg, 3.55 mmol) and TETRAKIS(TRIPHENYLPHOSPHINE)PALLADIUM(0) (164 mg, 0.142 mmol) was evacuated and backfilled with nitrogen before Toluene (1.29E+04 μl) and Ethanol (1290 μl) were added, followed by K2CO3 (2838 μl, 5.68 mmol). The tube was heated in the microwave for 25 minutes at 130° C. The mixture was cooled, diluted with chloroform (15 mL), washed with aqueous ammonium chloride (saturated, 10 mL), dried (Na2 SO4), filtered and the solvent was evaporated under reduced pressure. The crude product was then purified by column chromatography on silica gel Isolute Flash Si; eluting with 5-10% EtOAc/isohexane to give 9-methyl-6H-benzo[c]chromen-6-one. 1H NMR (500 MHz; CDCl3): 8.32 (d, J=8.3 Hz, 1H), 8.09 (d, J=8.0 Hz, 1H), 7.94 (s, 1H), 7.51 (m, 1H), 7.37 (m, 3H), 2.59 (s, 3H); LC-MS (IE, m/z): 211 [M+1]+.

reactant | methyl 2-bromo-4-methylbenzoate | 2.84 mmol, 650 mg | BrC1=C(C(=O)OC)C=CC(=C1)C | C9H9BrO2
reactant | 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 3.55 mmol, 781 mg | CC1(OB(OC1(C)C)C1=C(C=CC=C1)O)C | C12H17BO3
reactant | K2CO3 | 5.68 mmol, 2838 μl | C(=O)([O-])[O-].[K+].[K+]
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | TETRAKIS(TRIPHENYLPHOSPHINE)PALLADIUM(0) | 0.142 mmol, 164 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 9-methyl-6H-benzo[c]chromen-6-one | CC1=CC2=C(C(OC3=CC=CC=C23)=O)C=C1 | C14H10O2
